US04944795
A solution of methanethiol (8 g) in CCl4 was stirred and treated dropwise at -25° C. with bromine (26.6 g). Ethyl 2,2-dimethyl-3-butenoate (23 g) was then added dropwise at that temperature over two hours. Following the addition, the solution was allowed to warm to room temperature, then concentrated in vacuo. NMR showed near complete conversion to the 4-bromo-3-methylthio ester (38 g). The residual oil was then heated one hour on a steam bath to effect conversion to the thermodynamically favored 3-bromo-4-methylthio ester. This material was then dissolved in 50 mL of DMF and treated with 26 g of DBU. The solution was heated briefly on a steam bath, then was allowed to cool and worked up by pouring into water, extracting with 2×200 mL of ether, drying and concentrating. The residual oil (24.75 g) was hydrolyzed by stirring overnight in a solution of 50 mL of ethanol, 15 mL of water and 7.8 g of sodium hydroxide. Acidification with 1N HCl and extraction into ether followed by drying and concentration furnished a solid which was recrystallized from ether/hexane to give 13.5 g of 2,2-dimethyl-4-methylthio-3-butenoic acid, m.p. 49°-51° C.

reactant | methanethiol | 8 g | CS | CH4S
reactant | bromine | 26.6 g | BrBr | Br2
reactant | Ethyl 2,2-dimethyl-3-butenoate | 23 g | CC(C(=O)OCC)(C=C)C | C8H14O2
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,2-dimethyl-4-methylthio-3-butenoic acid | 13.5 g | CC(C(=O)O)(C=CSC)C | C7H12O2S
